US05886008
V. 5-(4-Cyano-2-nitrophenyl)amino-3-(N-methylpyrrolidin-3-yl)-1H-indole
5-Amino-3-(N-methylpyrrolidin-3-yl)-1H-indole and 4-chloro-3-nitrobenzonitrile were used. Sodium acetate was used as base, acetic acid was used as solvent, and the reaction was heated at reflux for 5 hours. Column chromatography afforded the title compound (16%) as a red amorphous solid: Rf =0.35 in 9:1:0.1 [methylene chloride/methanol/ammonium hydroxide]; 13C NMR (CDCl3) δ 147.4, 137.0, 135.8, 132.1, 131.4, 128.2, 127.8, 122.2, 120.4, 120.3, 118.2, 117.2, 117.1, 112.7, 98.9, 62.7, 56.3, 42.4, 35.0, 32.3; HRMS calculated for C20H19N5O2 361.1541, found 361.1500.

reactant | 5-Amino-3-(N-methylpyrrolidin-3-yl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C1CN(CC1)C | C13H17N3
reactant | 4-chloro-3-nitrobenzonitrile | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | Sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(4-Cyano-2-nitrophenyl)amino-3-(N-methylpyrrolidin-3-yl)-1H-indole | 16% | C(#N)C1=CC(=C(C=C1)NC=1C=C2C(=CNC2=CC1)C1CN(CC1)C)[N+](=O)[O-] | C20H19N5O2
